US04839365
To a solution of 83 mg (0.244 mmol) of 2-[(3-acetaminothieno[2, 3-c]pyridin-7-yl)methylthio]benzimidazole (Ia-12) was dissolved in a mixture of 4 ml of CHCl3 and 2 ml of MeOH. To the solution was added 53 mg (1 equivalent) of 80% m-CPBA at -10° C., and the mixture was stirred for 1.5 hr. at the same temperature. By adding an appropriate quantity each of 10% Na2SO3 and saturated aqueous NaHCO3 to the solution, crystals separated out. The crystals were collected by filtration to give 72 mg of crude crystals. The crystals were recrystallized from a solution of CHCl3 - MeOH, whereby 53 mg (Yield : 60.9%) of 2-[(3-acetaminothieno[2, 3-c]pyridin-7-yl)methylsulfinyl]benzimidazole (Ic-27) was obtained as an objective compound.

reactant | 2-[(3-acetaminothieno[2, 3-c]pyridin-7-yl)methylthio]benzimidazole | 0.244 mmol, 83 mg | N(C(=O)C)C1=CSC2=C(N=CC=C21)CSC=2NC1=C(N2)C=CC=C1 | C17H14N4OS2
reactant | m-CPBA | 53 mg, 1 equivalent | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CHCl3 | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 2 ml | CO | CH4O
product | 2-[(3-acetaminothieno[2, 3-c]pyridin-7-yl)methylsulfinyl]benzimidazole | 53 mg, 60.9% | N(C(=O)C)C1=CSC2=C(N=CC=C21)CS(=O)C=2NC1=C(N2)C=CC=C1 | C17H14N4O2S2
